US07411072B2
3-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine
Dissolve 5-(3-bromo-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (3.00 g, 8.30 mmol) in toluene (75 mL) and add the following reagents: tris(dibenzylidine acetone)dipalladium(0) (380 mg, 0.415 mmol), racemic BINAP (517 mg, 0.830 mmol), sodium t-butoxide (1.12 g, 11.6 mmol), and benzophenone imine (3.48 mL, 3.76 g, 20.76 mmol). Heat the mixture to reflux overnight. Cool to room temperature and dilute with H2O. Extract into ethyl acetate and dry organics (MgSO4). Concentrate organics and take the residue up in a 1:1 mixture of THF and 1N HCl. After 2 h, extract into ethyl acetate and dry organics (MgSO4). Concentrate to a brown solid containing the title compound. Boil the solid in a 5:1:0.1 mixture of toluene:ethyl acetate:THF. Cool the suspension to −26° C. and filter, collect 1.98 g (80%) of a white solid, mp 204.3° C. 1H NMR (DMSO-d6) δ 2.90 (br s, 2H), 3.36 (br d, 2H), 6.77-7.51 (m, 15H); MS (ES) 298 (M+H). HPLC shows 99% purity.

reactant | 5-(3-bromo-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 8.30 mmol, 3.00 g | BrC=1C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC1 | C22H17Br
reactant | BINAP | 0.830 mmol, 517 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium t-butoxide | 11.6 mmol, 1.12 g | CC(C)([O-])C.[Na+]
reactant | benzophenone imine | 20.76 mmol, 3.48 mL, 3.76 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | 3-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)N | C22H19N
